US05089487
3-(1-Acetoxy-3-methylbutyl)-11-methyl-7H-dibenzo[b,g][1,5]dioxocin-5-one
100 mg (0.27 mmol) of penicillide (Ib) are stirred in 2 ml of pyridine and 1 ml of acetic anhydride for 14 h at 25° C. with the exclusion of moisture. The reaction mixture is evaporated in vacuo, the residue is taken up in methylene chloride and the solution is washed with water. The evaporation residue of the dried organic phase is chromatographed on silica gel using hexane/diethyl ether.

reactant | penicillide | 0.27 mmol, 100 mg | CC1=CC2=C(C(=C1)O)OC3=CC=C(C(=C3C(=O)OC2)OC)[C@H](CC(C)C)O | C21H24O6
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-(1-Acetoxy-3-methylbutyl)-11-methyl-7H-dibenzo[b,g][1,5]dioxocin-5-one | C(C)(=O)OC(CC(C)C)C1=CC2=C(OC3=C(COC2=O)C=CC=C3C)C=C1 | C22H24O5
